US07763732B2
The mixture of 7-chloro-1-(cyclohexyl)methyl-3-[(trifluoromethyl)carbonyl]-1H-indole (8.6 g, 25.0 mmol) and 4N NaOH (60 ml) in ethanol (40 ml) was stirred at 85° C. for 18 h. The mixture was concentrated in vacuo and the residue was acidified with 5N HCl, then partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane and combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The obtained crystals were washed with n-heptane to afford 7-chloro-1-(cyclohexyl)methyl-1H-indole-3-carboxylic acid (6.4 g, 21.9 mmol).

reactant | 7-chloro-1-(cyclohexyl)methyl-3-[(trifluoromethyl)carbonyl]-1H-indole | 25.0 mmol, 8.6 g | ClC=1C=CC=C2C(=CN(C12)CC1CCCCC1)C(=O)C(F)(F)F | C17H17ClF3NO
reactant | NaOH | 4N, 60 ml | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 7-chloro-1-(cyclohexyl)methyl-1H-indole-3-carboxylic acid | 21.9 mmol, 6.4 g | ClC=1C=CC=C2C(=CN(C12)CC1CCCCC1)C(=O)O | C16H18ClNO2
